US08138186B2
A mixture of 1-(3,4-dichlorophenyl)-1H-pyrazol-3-ol (0.2 g, 0.87 mmol; compound prepared in the same way as Example 1, Scheme 1-step 1B), 2-(chloromethyl)oxirane (0.1 g, 1.05 mmol), potassium carbonate (0.36 g, 2.62 mmol) and sodium iodide (0.13 g, 0.87 mmol) in dimethylformamide (6 ml) was warmed, with stirring, to 100° C. for 4 hrs. The solvent was evaporated to dryness in vacuo and residue partitioned between water and dichlorometane. The combined organic phases were dried over sodium sulphate, filtered and evaporated in vacuo to yield 0.24 g of 1-(3,4-dichlorophenyl)-3-(oxiran-2-ylmethoxy)-1H-pyrazole as a dark oil, used without further purification in next step of synthesis.

reactant | 1-(3,4-dichlorophenyl)-1H-pyrazol-3-ol | ClC=1C=C(C=CC1Cl)N1N=C(C=C1)O | C9H6Cl2N2O
reactant | 2-(chloromethyl)oxirane | 1.05 mmol, 0.1 g | ClCC1OC1 | C3H5ClO
reactant | potassium carbonate | 2.62 mmol, 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.87 mmol, 0.13 g | [I-].[Na+]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1-(3,4-dichlorophenyl)-3-(oxiran-2-ylmethoxy)-1H-pyrazole | 0.24 g | ClC=1C=C(C=CC1Cl)N1N=C(C=C1)OCC1OC1 | C12H10Cl2N2O2
